.title KiCad schematic
.include "/home/arthur/Projects/Electronics/Projects/blood-pressure-monitor/blood-pressure-meter/opamp-generic.lib"
.save all
.probe alli
.probe p(R1)
.probe p(R10)
.probe p(R9)
.probe p(C1)
.probe p(R8)
.probe p(R11)
.probe p(V1)
.probe p(V2)
.probe p(XU3)
.tran 1u 10m 0 1u uic
R1 /PWM Net-_U3A--_ 100k
R10 Net-_U3A--_ /PHASE 100k
R9 GND Net-_U3A-+_ 100k
C1 Net-_U3A--_ GND 2n
R8 Net-_U3A-+_ /PWM 100k
R11 GND /PHASE 100k
V1 /PWM GND PULSE( 0 5 2n 2n 2n 500u 1ms ) 
V2 +5V GND DC 5 
XU3 Net-_U3A-+_ Net-_U3A--_ /PHASE +5V GND opamp_simple

.plot tran V(/PHASE) V(Net-_U3A--_) V(Net-_U3A-+_)

.end
