*=========================================================
* simple ideal op-amp
*=========================================================
.subckt opamp_simple inp inn out vcc vee

.param rin=1Meg
.param rout=100
.param avol=100k

* Differential input resistance
RIN inp inn {rin}

* Open-loop gain stage with rail limiting
EGAIN gain vee VALUE={max(min(avol*(V(inp)-V(inn)),V(vcc)),V(vee))}

* Output resistance
ROUT gain out {rout}

* Weak DC paths for convergence
Rinp_ref   inp  vee 1G
Rinn_ref   inn  vee 1G
Rout_ref   out  vee 1G
Rgain_ref  gain vee 1G
Rvcc_ref   vcc  vee 1G

.ends opamp_simple

*=========================================================
* dual op-amp package
* pins:
*  inp0 inn0 out0
*  inp1 inn1 out1
*  vcc vee
*=========================================================
.subckt opamp_dual inp0 inn0 out0 inp1 inn1 out1 vcc vee
.param rin=1meg
.param avol=100k
.param rout=100

rin0 inp0 inn0 {rin}
bgain0 nint0 0 V = max(min({avol}*(V(inp0)-V(inn0)), V(vcc)), V(vee))
rout0 nint0 out0 {rout}
rshunt0 out0 0 1G

rin1 inp1 inn1 {rin}
bgain1 nint1 0 V = max(min({avol}*(V(inp1)-V(inn1)), V(vcc)), V(vee))
rout1 nint1 out1 {rout}
rshunt1 out1 0 1G

.ends opamp_dual


*=========================================================
* quad op-amp package
* pins:
*  inp0 inn0 out0
*  inp1 inn1 out1
*  inp2 inn2 out2
*  inp3 inn3 out3
*  vcc vee
*=========================================================
.subckt opamp_quad
+ inp0 inn0 out0
+ inp1 inn1 out1
+ inp2 inn2 out2
+ inp3 inn3 out3
+ vcc vee

.param rin=1meg
.param avol=100k
.param rout=100

rin0 inp0 inn0 {rin}
bgain0 nint0 0 V = max(min({avol}*(V(inp0)-V(inn0)), V(vcc)), V(vee))
rout0 nint0 out0 {rout}
rshunt0 out0 0 1G

rin1 inp1 inn1 {rin}
bgain1 nint1 0 V = max(min({avol}*(V(inp1)-V(inn1)), V(vcc)), V(vee))
rout1 nint1 out1 {rout}
rshunt1 out1 0 1G

rin2 inp2 inn2 {rin}
bgain2 nint2 0 V = max(min({avol}*(V(inp2)-V(inn2)), V(vcc)), V(vee))
rout2 nint2 out2 {rout}
rshunt2 out2 0 1G

rin3 inp3 inn3 {rin}
bgain3 nint3 0 V = max(min({avol}*(V(inp3)-V(inn3)), V(vcc)), V(vee))
rout3 nint3 out3 {rout}
rshunt3 out3 0 1G

.ends opamp_quad
